US07196090B2
1-Cyclopentyl-3-(3-ethoxy-2,6-difluoro-phenyl)-7-methylsulfanyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one
A solution of 1.00 g (2.53 mmol) of cyclopentyl-{5-[(3-ethoxy-2,6-difluoro-phenylamino)-methyl]-2-methylsulfanyl-pyrimidin-4-yl }-amine in 20 mL of dry THF was cooled to 0C. To this solution was added 0.25 g (6.33 mmol, 2.5 equivalents) of NaH as a 60% oil suspension. The reaction was stirred for 0.5 hour, the ice bath was removed, and the reaction was stirred for another 0.5 hour. To the reaction was added 1.24 g (7.60 mmol, 3.0 equivalents) of CDI. After 0.5 hour the reaction was warmed to reflux for 24 hours. The reaction was concentrated in vacuo and the residue was partitioned between dichloromethane and a saturated solution of ammonium chloride. The dichloromethane layer was washed again with ammonium chloride and then once with a saturated solution of NaCl, dried, and concentrated in vacuo. The crude material was eluted onto a Biotage 90 g silica gel column that had been pre-equilibrated with 3:1 hexane/ethyl acetate using the same solvent mixture. Fractions of pure product were combined and concentrated in vacuo to give 0.86 g (81%) of the title compound as a foam: mp 45° C. dec. MS (APCI) (m+1)/z 421.2 Analysis calculated for C20H22F2N4SO2: C, 57.13; H, 5.27; N, 13.32. Found: C, 57.12; H, 5.08; N, 13.21.

reactant | cyclopentyl-{5-[(3-ethoxy-2,6-difluoro-phenylamino)-methyl]-2-methylsulfanyl-pyrimidin-4-yl }-amine | 2.53 mmol, 1.00 g | C1(CCCC1)NC1=NC(=NC=C1CNC1=C(C(=CC=C1F)OCC)F)SC | C19H24F2N4OS
reactant | NaH | 6.33 mmol, 0.25 g, 2.5 equivalents | [H-].[Na+]
reactant | CDI | 7.60 mmol, 1.24 g, 3.0 equivalents | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-Cyclopentyl-3-(3-ethoxy-2,6-difluoro-phenyl)-7-methylsulfanyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 0.86 g, 81% | C1(CCCC1)N1C(N(CC=2C1=NC(=NC2)SC)C2=C(C(=CC=C2F)OCC)F)=O | C20H22F2N4O2S
